US07479502B2
Proceeding as in Reference 19, but substituting 3-bromo-4-(2-methoxyethoxymethoxy)phenylacetate (2.43 g, 7.28 mmol) and 2-(2-methoxyethoxymethoxy)-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)benzaldehyde in toluene (7.28 mmol, 0.1 M, 73 mL), gave methyl [3′-formyl-6,2′-bis(2-methoxyethoxymethoxy)biphenyl-3-yl]acetate (2.42 g).

reactant | 3-bromo-4-(2-methoxyethoxymethoxy)phenylacetate | 7.28 mmol, 2.43 g | BrC=1C=C(C=CC1OCOCCOC)CC(=O)[O-]
reactant | 2-(2-methoxyethoxymethoxy)-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)benzaldehyde | COCCOCOC1=C(C=O)C=CC=C1B1OC(C(O1)(C)C)(C)C | C17H25BO6
reactant | toluene | 7.28 mmol, 0.1 M, 73 mL | C1(=CC=CC=C1)C | C7H8
product | methyl [3′-formyl-6,2′-bis(2-methoxyethoxymethoxy)biphenyl-3-yl]acetate | 2.42 g | C(=O)C=1C(=C(C=CC1)C1=CC(=CC=C1OCOCCOC)CC(=O)OC)OCOCCOC | C24H30O9
